US06410594B1
To a mixture of cis-3-(methoxycarbonyl)cyclopentancarboxylic acid [prepared according to the procedure disclosed by Tucjan J. J. Horonowski and Walter A. Szorek. Can. J. Chem. 66 61-70 (1988); 17.2 g, 0.1 mmol] and triethylamine (10.1 g, 0.1 mmol) in tetrahydrofuran (300 mL) was added ethyl chloroformate (10.9 g, 0.1 mmol) at about −5° C. over a period of about 30 min. The mixture was further stirred for about 15 min at about −5° C. The resultant thick slurry was filtered and the solids were washed with tetrahydrofuran. The combined filtrates were cooled to about 10° C. and sodium borohydride (14.5 g, 0.38 mol) was added with stirring in one portion. The mixture was stirred further for about 10 min and methanol (62 mL) added dropwise over a period of about 1 h at about 10° C. When methanol addition was completed, 6 N hydrochloric acid was added slowly until neutralization. An organic layer was collected and an aqueous layer was extracted thrice with ether. The combined organic extracts were dried, filtered, and concentrated. The residue was dissolved in ether (about 300 mL), and a white solid was precipitated which was removed by filtration. The filtrate was concentrated and the residue passed through a column of silica gel using about 2% methanol in chloroform. The appropriate fractions were combined and concentrated to give 12.5 g (79%) of methyl cis-3-hydroxymethylcyclopentancarboxylate.

reactant | cis-3-(methoxycarbonyl)cyclopentancarboxylic acid | COC(=O)[C@H]1C[C@H](CC1)C(=O)O | C8H12O4
reactant | triethylamine | 0.1 mmol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.1 mmol, 10.9 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 0.38 mol, 14.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methanol | 62 mL | CO | CH4O
product | methyl cis-3-hydroxymethylcyclopentancarboxylate | 12.5 g, 79% | OC[C@H]1C[C@H](CC1)C(=O)OC | C8H14O3
